US06420364B1
(a) 2-Chloro-4,5-difluorobenzoic Acid Methyl Ester
2-Chloro-4,5-difluorobenzoic acid (1.93 g, 10 mmol) was dissolved in 20 mL of acetone. Cesium carbonate (5.29 g, 15 mmol) was added followed by iodomethane (1.0 mL, 15 mmol). This reaction mixture was heated under reflux for 1 h and then cooled to room temperature. This suspension was then diluted with 40 mL of ethyl ether. The solid was removed by filtration and washed with ethyl ether. The filtrate was evaporated in vacuo to give the title compound in quantitative yield as a clear oil.

reactant | 2-Chloro-4,5-difluorobenzoic acid | 10 mmol, 1.93 g | ClC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3ClF2O2
reactant | Cesium carbonate | 15 mmol, 5.29 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 15 mmol, 1.0 mL | IC | CH3I
solvent | acetone | 20 mL | CC(=O)C | C3H6O
solvent | ethyl ether | 40 mL | C(C)OCC | C4H10O
product | 2-Chloro-4,5-difluorobenzoic Acid Methyl Ester | quantitative yield | COC(C1=C(C=C(C(=C1)F)F)Cl)=O | C8H5ClF2O2
